US04472578
In 50 ml of hot ethanol was dissolved 1.68 g of 3,6-dimethoxy-o-phenylenediamine. To this solution was gradually added 2.6 g of ethyl 1,4-dihydro-1,4-dioxo-3-methoxy-2-naphthoate under heating with stirring, and the mixture was refluxed for a further 2 hours. The reaction mixture was cooled and the precipitated solid was collected by filtration and recrystallized from benzene to give 3.50 g (92.6% yield) of ethyl 5-hydroxy-8,11-dimethoxybenzo[a]-phenazine-6-carboxylate as red needles, m.p. 290° C. (decomp.), Anal. Calcd.: (%) for C21H18N2O5 ; C, 66.66; H, 4.80; N, 7.40; Found: C, 66.46; H, 4.56; N, 7.53

reactant | 3,6-dimethoxy-o-phenylenediamine | 1.68 g | COC=1C(=C(C(=CC1)OC)N)N | C8H12N2O2
reactant | ethyl 1,4-dihydro-1,4-dioxo-3-methoxy-2-naphthoate | 2.6 g | O=C1C(=C(C(C2=CC=CC=C12)=O)OC)C(=O)OCC | C14H12O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-hydroxy-8,11-dimethoxybenzo[a]-phenazine-6-carboxylate | 3.50 g, 92.6% yield | OC1=C2C(=C3N=C4C(=CC=C(C4=NC3=C1C(=O)OCC)OC)OC)C=CC=C2 | C21H18N2O5
